US07202239B2
[10-(4-Cyclohexyl-benzoyl)-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine 3-yl][4-(2-pyridinyl)-1-piperazinyl]-methanone
The crude 10-(4-cyclohexyl-benzoyl)-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-3-carbonyl chloride prepared in the manner of Example 23 (0.5 g) was added to a stirred mixture of N,N-diisopropylethyl amine (0.32 g), 4-(2-pyridyl)piperazine (0.39 g) and 4-(dimethylamino)pyridine (0.05 g) in dichloromethane (25 mL). After stirring overnight at room temperature the reaction mixture was washed with water and saturated aqueous sodium bicarbonate, and dried over anhydrous sodium sulfate. The solution was filtered through a short column of Magnesol®. and the eluate evaporated to dryness to provide the desired title compound (0.30 g) as a pale yellow amorphous solid.

reactant | 10-(4-cyclohexyl-benzoyl)-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-3-carbonyl chloride | C1(CCCCC1)C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C(=CC3)C(=O)Cl)C=C1 | C26H25ClN2O2
reactant | N,N-diisopropylethyl amine | 0.32 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(2-pyridyl)piperazine | 0.39 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
catalyst | 4-(dimethylamino)pyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | [10-(4-Cyclohexyl-benzoyl)-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine 3-yl][4-(2-pyridinyl)-1-piperazinyl]-methanone | 0.30 g | C1(CCCCC1)C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C(=CC3)C(=O)N3CCN(CC3)C3=NC=CC=C3)C=C1 | C35H37N5O2
